US04742069
A moderately rapid stream of dry ammonia was introduced at 20°-25° during 3 hours into a solution of 2.5 g of 2,3,6-trimethyl-2H-1,2-thiazin-5(6H)-one 1,1-dioxide in 25 ml of methanol and the mixture was thereupon left to stand overnight. The dark yellow solution obtained was concentrated to dryness under reduced pressure and the crystalline residue was recrystallized from ethanol. There were obtained 2.3 g of 4-amino-N,1-dimethyl-2-oxo-3-pentenesulfonamide in the form of colorless crystals, m.p. 140°-143°.

reactant | ammonia | N | H3N
reactant | 2,3,6-trimethyl-2H-1,2-thiazin-5(6H)-one 1,1-dioxide | 2.5 g | CN1S(C(C(C=C1C)=O)C)(=O)=O | C7H11NO3S
solvent | methanol | 25 ml | CO | CH4O
product | 4-amino-N,1-dimethyl-2-oxo-3-pentenesulfonamide | 2.3 g | NC(=CC(C(S(=O)(=O)NC)C)=O)C | C7H14N2O3S
